US08487106B2
In a reaction vessel, 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid methylester (2.2 g) prepared in the Examples 1-3, triethylamine (1.2 g), methanesulfonylchloride (1.25 g) and dichloromethane (20 mL) were introduced, and the mixture was reacted at room temperature for 2 hours. Distilled water (50 mL) was added thereto, and the mixture was stirred to separate layers. The separated organic layer was dehydrated Na2SO4, and then condensed by filtration to obtain 2-[4-(2-methanesulfonyloxy-ethyl)-phenyl]-2-methyl-propionic acid methylester (3.2 g, yield 100%).

reactant | 2-[4-(2-hydroxy-ethyl)-phenyl]-2-methyl-propionic acid methylester | 2.2 g | COC(C(C)(C)C1=CC=C(C=C1)CCO)=O | C13H18O3
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 1.25 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-[4-(2-methanesulfonyloxy-ethyl)-phenyl]-2-methyl-propionic acid methylester | 3.2 g, yield 100% | COC(C(C)(C)C1=CC=C(C=C1)CCOS(=O)(=O)C)=O | C14H20O5S
